**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Optocoupler Phototransistor
* Matchcode:              WL-OCPT
* Library Type:           LTspice
* Version:                rev23a
* Created/modified by:    Ella      
* Date and Time:          2023-03-01
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
********************************************************
***********************Series_817***********************
********************************************************
***********************
.SUBCKT Series_817_14081714x0x0 A K C E 
D1 A D LED	
VH D K 0 
Hd R 0 VH 1	
Rd R T 10k
Cd T 0 0.02n
Rg B 0 4G
Q1 C B E Detector 

G1 C B TABLE
+ {if(V(T)<0.01,
+ (0.49207E+01*PWR(V(T),(0.11893E+01+0.38933E+01*V(T)))-.62825E+00*V(T))/100,
+ (-.23752E-01*EXP(-.11157E+03*V(T))+0.17792E-01*EXP(0.30610E+01*V(T)))/96.5)}
+ (0,0.0000000001) (10,10)

.model LED D
+ IS=1.1516E-15
+ N=1.6015
+ RS=2.0027
+ IKF=19.785E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=6
+ IBV=10.00E-6
+ TT=5.0000E-9
.model Detector NPN IS=3.64P BF=350 NF=1.13 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=100 IKF=0.5 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
***********************
.SUBCKT Series_817_14081714x1x0 A K C E 
D1 A D LED	
VH D K 0 
Hd R 0 VH 1	
Rd R T 10k
Cd T 0 0.02n
Rg B 0 4G
Q1 C B E Detector 

G1 C B TABLE
+ {if(V(T)<0.01,
+ (0.43686E+06*EXP((PWR((Ln(V(T))-0.23968E+02),2))/-.47786E+02)-.99370E-01*V(T))*0.91/120,
+ (0.74618E-01/PWR((1+0.76549E-03*PWR(V(T),-.17367E+01)),2)+0.86823E-02)*0.91/120)}
+ (0,0.0000000001) (10,10)

.model LED D
+ IS=1.1516E-15
+ N=1.6015
+ RS=2.0027
+ IKF=19.785E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=6
+ IBV=10.00E-6
+ TT=5.0000E-9
.model Detector NPN IS=3.64P BF=120 NF=1.15 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=35 IKF=10 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
***********************
.SUBCKT Series_817_14081714x2x0 A K C E 
D1 A D LED	
VH D K 0 
Hd R 0 VH 1	
Rd R T 10k
Cd T 0 0.02n
Rg B 0 4G
Q1 C B E Detector 

G1 C B TABLE
+ {if(V(T)<0.01,
+ (0.11752E+02*PWR(V(T),(0.12235E+01+0.25594E+01*V(T)))-.11263E+01*V(T))*0.90/200,
+ ((-.37069E-02+V(T))/(0.29850E+00+0.28408E+03*PWR(V(T),2))+0.67746E+00*V(T))*0.90/200)}
+ (0,0.0000000001) (10,10)

.model LED D
+ IS=1.1516E-15
+ N=1.6015
+ RS=2.0027
+ IKF=19.785E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=6
+ IBV=10.00E-6
+ TT=5.0000E-9
.model Detector NPN IS=3.64P BF=200 NF=1.15 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=35 IKF=10 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
***********************
.SUBCKT Series_817_14081714x3x0 A K C E 
D1 A D LED	
VH D K 0 
Hd R 0 VH 1	
Rd R T 10k
Cd T 0 0.02n
Rg B 0 4G
Q1 C B E Detector 

G1 C B TABLE
+ {if(V(T)<0.01,
+ (0.34434E+02*PWR(V(T),(0.14118E+01+0.84578E+01*V(T)))-.19966E-04)*0.89/300,
+ (-.94084E-01*EXP(-.11333E+03*V(T))+0.62819E-01*EXP(0.38335E+01*V(T)))*0.89/300)}
+ (0,0.0000000001) (10,10)

.model LED D
+ IS=1.1516E-15
+ N=1.6015
+ RS=2.0027
+ IKF=19.785E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=6
+ IBV=10.00E-6
+ TT=5.0000E-9
.model Detector NPN IS=3.64P BF=300 NF=1.15 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=35 IKF=10 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
***********************
.SUBCKT Series_817_14081714x4x0 A K C E 
D1 A D LED	
VH D K 0 
Hd R 0 VH 1	
Rd R T 10k
Cd T 0 0.02n
Rg B 0 4G
Q1 C B E Detector 

G1 C B TABLE
+ {if(V(T)<0.01,
+ ((0.20744E+02-.49075E-04*PWR(V(T),-.12964E+01))/(0.11115E+03+PWR(V(T),-.12964E+01)))*0.89/450,
+ (-.96770E-01*EXP(-.11097E+03*V(T))+0.70807E-01*EXP(0.31591E+01*V(T)))*0.89/450)}
+ (0,0.0000000001) (10,10)

.model LED D
+ IS=1.1516E-15
+ N=1.6015
+ RS=2.0027
+ IKF=19.785E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=6
+ IBV=10.00E-6
+ TT=5.0000E-9
.model Detector NPN IS=3.64P BF=450 NF=1.15 BR=10 TF=20N TR=350n
+ CJE=5.16P VJE=0.99 MJE=0.2411274 CJC=18P VJC=0.597478 MJC=0.431978
+ ISC=0.207N VAF=35 IKF=10 ISS=0 CJS=7.74p VJS=0.61 MJS=0.31
.ends
***********************